US07732453B2
To a solution of 3.0 g (15.5 mmol) 2,6-dichloro-3-nitropyridine in 50 mL of THF at −78° C. under Ar atmosphere was added 2.7 mL (15.5 mmol) of N,N-diisopropylethylamine followed by 1.6 mL (15.5 mmol) of N-acetylethylenediamine. The mixture was stirred at −78° C. for 30 min, allowed to warm to room temperature, and stirred for 72 hours. The solvent was removed in vacuo and the residue was purified by flash chromatography eluting with MeOH/dichloromethane gradient (1→10%) to provide N-(2-(6-chloro-3-nitropyridin-2-ylamino)ethyl)acetamide as pale yellow solid.

reactant | 2,6-dichloro-3-nitropyridine | 15.5 mmol, 3.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | N,N-diisopropylethylamine | 15.5 mmol, 2.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-acetylethylenediamine | 15.5 mmol, 1.6 mL | C(C)(=O)NCCN | C4H10N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(2-(6-chloro-3-nitropyridin-2-ylamino)ethyl)acetamide | ClC1=CC=C(C(=N1)NCCNC(C)=O)[N+](=O)[O-] | C9H11ClN4O3
